### ISSUE TITLE
`grind` regression: `invalid universe level`

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#11036]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The following code succeeds in `nightly-2025-10-30` but fails in `nightly-2025-10-31`:

```lean
variable {α : Sort u} {β : α → Sort v} {α' : Sort w} [DecidableEq α]
  {f : (a : α) → β a} {a : α} {b : β a}

/-- Replacing the value of a function at a given point by a given value. -/
def Function.update (f : ∀ a, β a) (a' : α) (v : β a') (a : α) : β a :=
  if h : a = a' then Eq.ndrec v h.symm else f a

@[simp]
theorem Function.update_self (a : α) (v : β a) (f : ∀ a, β a) : update f a v a = v :=
  dif_pos rfl

@[simp]
theorem Function.update_of_ne {a a' : α} (h : a ≠ a') (v : β a') (f : ∀ a, β a) : update f a' v a = f a :=
  dif_neg h

theorem domDomRestrict_aux {ι : Sort u_1} [DecidableEq ι] (P : ι → Prop) [DecidablePred P] {M₁ : ι → Type u_2}
    [DecidableEq {a // P a}]
    (x : (i : {a // P a}) → M₁ i) (z : (i : {a // ¬ P a}) → M₁ i) (i : {a : ι // P a})
    (c : M₁ i) : (fun j ↦ if h : P j then Function.update x i c ⟨j, h⟩ else z ⟨j, h⟩) =
    Function.update (fun j => if h : P j then x ⟨j, h⟩ else z ⟨j, h⟩) i c := by
  ext j
  by_cases h : j = i <;> grind only [Function.update_self, Function.update_of_ne]
```

The error message is:
```
invalid universe level, u_1 is not greater than 0
```

### Context

Discovered in `mathlib`'s `nightly-testing`.

**Expected behavior:** Proof succeeds

**Actual behavior:** Error message

### Versions

```
leanprover/lean4:nightly-2025-10-31
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
